US06723716B1
Methyl-2-(5-ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetate
Into a 3 L round bottom flask equipped with mechanical stirrer, thermometer and nitrogen purge was charged 2-(5-ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetic acid (185 g, 0.80 mol, 1.0 eq.) followed by methanol (925 mL) and the resulting solution was cooled to 0° C. To the solution was bubbled in HCl gas for 30 minutes and the thinning slurry was allowed to stir overnight at 20° C. Proton NMR analysis shows complete conversion to the title compound. The solvent was removed by rotary evaporation to 400 mL and then cooled to 0° C. and seeded with pure title compound. The thickening reaction mixture was stirred at 0° C. for two hours and the white solid was collected by vacuum filtration. The solid was dried under high vacuum for 12 hours at 20° C. to give 172.2 grams of the title compound as an off white solid. 1H NMR (CD3OD): δ 1.47 (t, 3H); 3.83 (s, 3H); 3.97 (s, 2H); 4.45 (q, 2H).

reactant | 2-(5-ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetic acid | 0.80 mol, 185 g, 1.0 eq. | C(C)OC(=O)NC1=NC(=NS1)CC(=O)O | C7H9N3O4S
reactant | methanol | 925 mL | CO | CH4O
product | Methyl-2-(5-ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetate | 172.2 grams | COC(CC1=NSC(=N1)NC(=O)OCC)=O | C8H11N3O4S
